Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
influenza
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ YOM hospitalized for treatment of pneumonia and influenza.  
The patient developed malaise, fatigue, chills and cough five 
days prior to admission.  He had shaking chills, missed work, 
and has developed some yellow sputum that was streaked with 
small amounts of blood on three occasions.  He has had watery 
diarrhea but no emesis.  He went to Urgent Care on ___ 
(___) who referred him to ED, where influenza test was 
positive and there were bilateral infiltrates on CXR with low 
grade fever and initial tachycardia in triage.  He has received 
2 liters IVF, IV ceftriaxone/azithromycin yesterday and 
oseltamavir.  He currently only has mild sub-xyphoid 
pain/discomfort present with coughing.  He denies any myalgias.  
He denies headache or neck stiffness or confusion.  

ROS: 13pt ROS negative unless described above.
 
Past Medical History:
HTN
Hyperlipidemia
Gout
Osteoarthritis
BPH
 
Social History:
___
Family History:
not pertinent to management of current illness
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.1, 152/82, 83, 22, 97% RA
GEN: fatigued adult, not confused, attentive w fluent speech
NECK: no neck stiffness, no anterior cervical LAD
HEENT: lips slightly dry/cracked, tongue moist
PULM: there are bilateral inspiratory crackles in lower ___t times expiratory short duration wheeze present 
anteriorly
CV: s1 and s2 without murmurs
ABD: soft, no palpable masses, slight epigastric discomfort to 
palpation, no guarding or rebound
Ext: no peripheral edema or rash
NEURO: able to move position sitting to supine independently
PSYCH: mood calm

DISCHARGE PHYSICAL EXAM:
VS: AF, 97.6, 143/76, 75, 20, 95% RA
Pain: ___
Gen: NAD, comfortable lying in bed watching TV 
HEENT: anicteric, MMM
CV: RRR, no murmur
Pulm: + cough, + minimal scattered wheeze, no rhonchi or 
crackles
Abd: soft, NT, ND, NABS
Ext: no edema
Skin: warm, dry
Neuro: AAOx3, fluent speech, steady gait
Psych: calm, appropriate
 
Pertinent Results:
ADMISSION LABS:
====================
___ 02:01PM BLOOD
WBC-6.5 Hgb-15.4 Hct-44.1 MCV-87 RDW-13.0 Plt ___
Neuts-82* Bands-5 Lymphs-7* Monos-2* Eos-0 Baso-0 Atyps-3* 
___ Myelos-1* 
Glucose-112* UreaN-13 Creat-0.9 Na-132* K-3.6 Cl-94* HCO3-24 
AnGap-18
ALT-50* AST-78* AlkPhos-56 TotBili-0.5
Lipase-56
Albumin-4.2 Calcium-8.8 Phos-3.3 Mg-2.3

___ 02:19PM BLOOD
Lactate-1.7

DISCHARGE LABS:
====================
___ 06:05AM BLOOD
WBC-4.1 Hgb-13.6* Hct-39.7* MCV-90 RDW-12.8 Plt ___

___ 05:30AM BLOOD
Glucose-107* UreaN-7 Creat-0.6 Na-141 K-3.5 Cl-103 HCO3-28 
AnGap-14
ALT-97* AST-94* AlkPhos-58 TotBili-0.5
Calcium-8.2* Phos-3.3 Mg-2.4

MICROBIOLOGY:
====================
___ 03:45PM OTHER BODY FLUID FluAPCR-POSITIVE * 
FluBPCR-NEGATIVE
___ 07:27PM STOOL NoroGI-NEGATIVE NoroGII-NEGATIVE
___ C. diff: NEGATIVE
___ Blood cultures x 2 sets: No growth, FINAL PENDING
 
Brief Hospital Course:
___ YOM with HTN, HLD, BPH, admitted with influenza and likely 
supraimposed bacterial pneumonia.

#Influenza A
#Community Acquired pneumonia
Presented with fevers, cough and SOB.  Found to be flu A 
positive in the ED.  Chest imaging with x-ray  and CT scan 
consistent with multi-lobar infiltrate.  He was treated with 5 
day course of Tamiflu as inpatient.  He was started on community 
acquired pneumonia antibiotics, initially with ceftriaxone and 
azithromycin, then transitioned to PO Levaquin on discharge, to 
complete a total of a ___lood cultures with no 
growth to date, although final results are pending.  Patient had 
some reactive airway disease / wheeze due to infection.  He 
responded well to nebs and was given prescription for albuterol 
inhaler on discharge.  No systemic steroids given to patient, 
due to influenza diagnosis.

#Diarrhea: some possible enteritis on CT abdomen, likely related 
to influenza.  C. diff and Noro negative.  Supportive care with 
IVF.  Diarrhea resolved prior to discharge.

# Anemia: mild, stable.  Possible hemodilution from IVF.  Repeat 
CBC at PCP ___

#Transaminitis: likely related to influenza.  Stable.  Repeat 
LFT's as outpatient.

#HTN: restarted lisinopril on ___ AM, BP in good range

#HL: continued simvastatin

#BPH: continued tamsulosin

TRANSITIONAL ISSUES:
1.  Needs dedicated adrenal imaging of incidental adrenal 
nodules (pt updated bedside, PCP notified via email)
2.  Needs ___ CXR in ___ weeks to assess for resolution of 
infiltrates
3.  Repeat CBC at PCP ___, further w/u for anemia as needed
4.  Repeat LFT's at PCP ___, if still elevated, then further w/u 
and hold home statin
5.  PENDING STUDIES AT TIME OF DISCHARGE
### ___ Blood cultures x 2 sets: No growth to date, FINAL 
PENDING
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. Tamsulosin 0.4 mg PO QHS 
4. Acetaminophen 1000 mg PO Q8H 
5. Hydrocortisone Cream 1% 1 Appl TP QID 

 
Discharge Medications:
1. Simvastatin 20 mg PO QPM 
2. Lisinopril 5 mg PO DAILY 
3. Tamsulosin 0.4 mg PO QHS 
4. Acetaminophen 1000 mg PO Q8H 
5. Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*30 Capsule Refills:*0
6. Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN cough 
RX *codeine-guaifenesin 100 mg-10 mg/5 mL ___ ml by mouth q6 
hours Refills:*0
7. Hydrocortisone Cream 1% 1 Appl TP QID 
8. Levofloxacin 500 mg PO Q24H Duration: 2 Days 
RX *levofloxacin 500 mg 1 tablet(s) by mouth every 24 hours Disp 
#*2 Tablet Refills:*0
9. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheeze 
RX *albuterol sulfate [ProAir HFA] 90 mcg ___ puffs inhaled q4 
Disp #*1 Inhaler Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Influenza
Multifocal pneumonia
Transaminitis
Anemia
Bilateral adrenal nodules

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for influenza (flu) and 
pneumonia, likely bacterial.  You improved with antibiotics.  
You will need to complete a course of antibiotics.  You had a CT 
scan that also showed an incidental finding of some lesions in 
your adrenal glands.  These lesions are likely adenomas, which 
are benign tumors.  We have updated your PCP and ___ 
schedule outpatient ___ imaging to evaluate.  We recommend 
that you do not return to work until you are seen by your PCP in 
___.  We also recommend a repeat chest x-ray in 
approximately 4 weeks to document resolution of your pneumonia.  
Your cough may persist for a few weeks even after your actual 
infection has resolved. You complete a 5 day course of 
anti-viral medication for your flu while inpatient.  You had 
mild anemia and mild elevation of your liver tests, and you 
should ___ with your PCP to have your blood tests 
re-checked.

 
Followup Instructions:
___